US05935958
Example 3 6-Hydroxytetralone, 4:
6-[(2-Pyrimidinyl)oxy]-tetralone (3.2 mmol), N-cyclohexylpiperazine (3.2 mmol) and Ti(O-2-Pr)4 (3.2 mmol) were dissolved in CH2Cl2 (10 mL). The solution was stirred at room temperature for 20 hours and then quenched with NaCNBH3 (6.4 mmol in 5 mL EtOH). Water (20 mL) was added, the resulting mixture was filtered through a pad of `Celite`, and the residue was rinsed with CH2Cl2 (10 mL). The organic layer was dried with Na2SO4 and evaporated to yield the crude product as an oil. Purification by column chromatography on TLC-grade silica gel and 100:3:1 CH2Cl2 :EtOH:NH4OH as eluant gave the pure product, 4-cyclohexyl-1-piperazinyl-[6-[(2-pyrimidinyl)oxy]]-1,2,3,4-tetrahydro-naphthalene. This was converted to the dimaleate salt, m.p. 179-181.5° C., by dissolving in EtOAc and heating with 2 equivalents of maleic acid.

reactant | maleic acid | 2 equivalents | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Hydroxytetralone | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
